US07816522B2
(135g) 2-(3-{(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-1-yl)benzoic acid
The same procedure was carried out as in Example (2f), except that 0.409 g of {2-(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester and 0.160 g of 2-hydrazinobenzoic acid hydrochloride were used instead of respectively the [2-(4-cyanophenylimino)-2-(2-fluoro-3,5-dimethoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester and (1-oxypyridin-2-yl)hydrazine, to give the title compound (0.280 g) as a white solid.

reactant | {2-(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 0.409 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)CC)OCC(N(C)C)=O)F)SC)=O | C26H28FN5O5S
reactant | 2-hydrazinobenzoic acid hydrochloride | 0.160 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | [2-(4-cyanophenylimino)-2-(2-fluoro-3,5-dimethoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester | COC(N=C(C(C1=C(C(=CC(=C1)OC)OC)F)=NC1=CC=C(C=C1)C#N)SC)=O | C20H18FN3O4S
product | 2-(3-{(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-1-yl)benzoic acid | 0.280 g | CN(C(=O)COC=1C(=C(C=C(C1)CC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)NC1=CC=C(C=C1)C1=NOC(=N1)C)F)C | C31H30FN7O6
